US09315458B2
E) methyl 3-chloro-2-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-4-(trifluoromethyl)benzoate
To a solution of methyl 5-bromo-3-chloro-2-hydroxy-4-(trifluoromethyl)benzoate (4.80 g) in toluene (70.0 mL) were added bis(pinacolato)diboron (5.48 g), potassium acetate (4.20 g) and trans-dichlorobis(triphenylphosphine)palladium(II) (0.51 g), and the mixture was stirred at 110° C. for 16 hr under argon atmosphere. The reaction mixture was allowed to be cooled to room temperature, and filtered, and the filtrate was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by flash silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (2.10 g).

reactant | methyl 5-bromo-3-chloro-2-hydroxy-4-(trifluoromethyl)benzoate | 4.80 g | BrC=1C(=C(C(=C(C(=O)OC)C1)O)Cl)C(F)(F)F | C9H5BrClF3O3
reactant | bis(pinacolato)diboron | 5.48 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.20 g | C(C)(=O)[O-].[K+]
solvent | toluene | 70.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.51 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 3-chloro-2-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-4-(trifluoromethyl)benzoate | 2.10 g | ClC=1C(=C(C(=O)OC)C=C(C1C(F)(F)F)B1OC(C(O1)(C)C)(C)C)O | C15H17BClF3O5
